US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(3-nitrophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (106.9 mg, 0.327 mmol) and 3-nitrophenol were reacted as starting materials at 150° C. for 17 hours and post-treatment was then conducted, whereby the title compound was obtained as pale yellow prisms (140.4 mg, 99.9%). Melting point: 172.2-174.0° C. (ethyl acetate-diethyl ether-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.327 mmol, 106.9 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
product | 3,4-bis(4-methoxyphenyl)-6-(3-nitrophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC(=CC=C1)[N+](=O)[O-] | C24H19N3O5
